US06995184B2
A) 6,7-Dichloro-1-(3-chloropropyl)-2-methyl-1H-indole.
7.84 g of crushed sodium hydroxide, 190 ml of toluene, 7 g of 6,7-dichloro-2-methyl-1H-indole, 85 ml of toluene and 0.7 g of tetrabutylammonium hydrogensulphate are introduced under nitrogen. The mixture is heated at reflux for 30 minutes, then 14 ml of 1-bromo-3-chloropropane are added and reflux is maintained for 2 hours. The reaction medium is poured onto water and the aqueous phase is washed with toluene. Extraction is carried out with toluene and then the extract is washed with water and with a saturated NaCl solution. The extract is dried and evaporated to produce 11.3 g of the expected compound.

reactant | sodium hydroxide | 7.84 g | [OH-].[Na+]
reactant | 6,7-dichloro-2-methyl-1H-indole | 7 g | ClC1=CC=C2C=C(NC2=C1Cl)C | C9H7Cl2N
reactant | 1-bromo-3-chloropropane | 14 ml | BrCCCCl | C3H6BrCl
catalyst | tetrabutylammonium hydrogensulphate | 0.7 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 85 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 190 ml | C1(=CC=CC=C1)C | C7H8
product | 6,7-Dichloro-1-(3-chloropropyl)-2-methyl-1H-indole | 11.3 g | ClC1=CC=C2C=C(N(C2=C1Cl)CCCCl)C | C12H12Cl3N
